US07977344B2
2-[(2-Cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a mixture of 2-cyclopropylethanol (3.45 g) in DME (20 mL) was added sodium tert-butoxide (3.86 g) gradually. The reaction was stirred under nitrogen for 30 mins, then 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2.54 g) and DME (20 mL) were added. The reaction was heated to reflux (110° C.) overnight, then for another 8 h. The reaction was quenched into water (100 mL) and extracted with EtOAc (2×100 mL). The organics were combined and washed with brine (100 mL) and dried using a hydrophobic frit. The resultant oil was azeotroped with toluene (×2) to give a gum. This was triturated with Et2O (cooled CO2/acetone bath) until the title compound was obtained as a yellow powder (1.579 g) which was placed under high vacuum for 24 h.

reactant | 2-cyclopropylethanol | 3.45 g | C1(CC1)CCO | C5H10O
reactant | sodium tert-butoxide | 3.86 g | CC(C)([O-])C.[Na+]
reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 2.54 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 2-[(2-Cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.579 g | C1(CC1)CCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H21N5O2
